data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
830,900,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:16]([C:17]([CH3:18])=[O:19])=[N:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:20](=[O:21])[O:22][CH3:23],water,298.15,15.101042364415717,-45.07225256914709
2016,2239,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21](=[O:22])[NH:23][CH3:24])[N+:25]([CH3:26])=[C:27]([CH3:28])[CH3:29].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21](=[O:22])[NH:23][CH3:24])[N:25]([CH3:26])[C:27]3([CH3:28])[CH3:29],water,298.15,29.28163685966329,-30.07923353230864
2376,2638,[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[C-:28]([C:29]#[N:30])[C:31](=[O:32])[O:33][CH3:34].[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:28]([C:29]#[N:30])([C:31](=[O:32])[O:33][CH3:34])[N:26]([CH3:27])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,38.43760860462304,0.1913617013969928
3433,3903,[CH3:10][O:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[N+:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]=[N:18]1,water,298.15,29.63489781391724,-3.4650969744902493
2589,2870,[CH3:18][O:19][C:20](=[O:21])[C:22](=[O+:23][C-:24]([CH3:25])[C:26](=[O:27])[O:28][CH3:29])[C:30](=[O:31])[O:32][CH3:33].[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([O:19][CH3:18])=[O:21])([C:30](=[O:31])[O:32][CH3:33])[O:23][C:24]2([CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,14.058915679198572,-58.45931905038015
1452,1600,[CH3:14][NH:15][C:16](=[O:17])[C-:18]([O+:19]=[C:20]([CH3:21])[C:22]#[N:23])[C:24]([CH3:25])=[O:26].[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:20]([CH3:21])([C:22]#[N:23])[O:19][C:18]2([C:16]([NH:15][CH3:14])=[O:17])[C:24]([CH3:25])=[O:26],water,298.15,9.237231427167874,-67.32220147380247
1578,1746,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[CH:20]([C:18]([NH:17][CH3:16])=[O:19])[N:21]([CH3:22])[C:23]2([C:24]#[N:25])[C:26]([CH3:27])=[O:28],water,298.15,23.138892686515927,-8.825038619155892
1583,1752,[CH3:13][NH:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[c:26](=[O:27])[o:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]1([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[NH:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[O:28][C:26]1=[O:27],water,298.15,21.55153851159968,-5.651744527457661
1692,1868,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[O+:18][CH-:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]([CH3:6])=[O:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([CH3:6])=[O:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:19]([C:20]([CH3:21])=[O:22])[O:18][C:17]2([C:15]([NH:14][CH3:13])=[O:16])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,13.960076062966746,-24.32837741193892
2336,2594,[CH3:13][NH:14][C:15](=[O:16])[N-:17][O+:18]=[C:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([Br:11])[Br:12]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([Br:11])([Br:12])[C:19]([C:20]#[N:21])([C:22](=[O:23])[NH:24][CH3:25])[O:18][N:17]1[C:15]([NH:14][CH3:13])=[O:16],water,298.15,23.351497398431373,-29.28855054881661
